US07939569B1
A solution of 3-(2′,4′,5′-trifluoro-biphenyl-4-yloxymethyl)-phenylamine hydrochloride (76 mg, 0.209 mmol), triethylamine (29 uL, 0.209 mmol) and trifluoromethanesulfonic anhydride (500 uL) in dry pyridine (3 mL) was reacted as for N-[3-(2′,4′,5′-trifluoro-biphenyl-4-yloxymethyl)-phenyl]-methanesulfonamide above. The crude product was purified by flash chromatography with a 0-10% gradient of ethyl acetate in hexanes to yield 17 mg (18%) of C,C,C-trifluoro-N-[3-(2′,4′,5′-trifluoro-biphenyl-4-yloxymethyl)-phenyl]methanesulfonamide as a white amorphous powder. LC-MS (ES) calculated for C20H13F6NO3S, 461.39; found m/z 460 [M−H]−.

reactant | 3-(2′,4′,5′-trifluoro-biphenyl-4-yloxymethyl)-phenylamine hydrochloride | 0.209 mmol, 76 mg | Cl.FC1=C(C=C(C(=C1)F)F)C1=CC=C(C=C1)OCC=1C=C(C=CC1)N
reactant | triethylamine | 0.209 mmol, 29 uL | C(C)N(CC)CC | C6H15N
reactant | trifluoromethanesulfonic anhydride | 500 uL | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
reactant | N-[3-(2′,4′,5′-trifluoro-biphenyl-4-yloxymethyl)-phenyl]-methanesulfonamide | FC1=C(C=C(C(=C1)F)F)C1=CC=C(C=C1)OCC=1C=C(C=CC1)NS(=O)(=O)C | C20H16F3NO3S
solvent | pyridine | 3 mL | N1=CC=CC=C1 | C5H5N
product | C,C,C-trifluoro-N-[3-(2′,4′,5′-trifluoro-biphenyl-4-yloxymethyl)-phenyl]methanesulfonamide | 17 mg, 18% | FC(S(=O)(=O)NC1=CC(=CC=C1)COC1=CC=C(C=C1)C1=C(C=C(C(=C1)F)F)F)(F)F | C20H13F6NO3S
